US04742056
chlordimeform;
benzomate and amitraz.

reactant | benzomate | CCN(C(=O)C1=C(C=CC(=C1OC)Cl)OC)OC(=O)C2=CC=CC=C2 | C18H18ClNO5
reactant | amitraz | CC1=CC(=C(C=C1)/N=C/N(/C=N/C2=C(C=C(C=C2)C)C)C)C | C19H23N3
product | chlordimeform | CC=1C=C(C=CC1/N=C/N(C)C)Cl | C10H13ClN2
